* Z:\uio\hume\student-u18\rikeshc\Rikesh\mast\INF5460\oblig_1\LM741_negative_dc_offset.asc
Q1 N001 3 N009 0 NP
Q2 N001 2 N010 0 NP
Q5 N012 N011 N010 0 PN
Q6 N014 N011 N009 0 PN
Q7 N014 N017 N019 0 NP
Q8 N012 N017 N020 0 NP
Q3 7 N014 N017 0 NP
Q4 N001 N001 7 0 PN
R1 N019 4 1K
R2 N017 4 50K
R3 N020 4 1K
Q9 N011 N001 7 0 PN
Q10 N002 N002 7 0 PN
Q11 N003 N002 7 0 PN
Q12 N015 N015 4 0 NP
Q13 N011 N015 N021 0 NP
R4 N021 4 5K
Q14 N003 N005 N008 0 NP
Q15 N008 N016 N018 0 NP
Q16 N008 N012 N016 0 NP
R5 N016 4 50K
R6 N018 4 50
Q17 N012 N018 4 0 NP
C1 N003 N012 30p
R7 N008 N005 7.5K
R8 N003 N005 4.5K
Q18 7 N003 N006 0 NP
Q19 4 N008 N013 0 PN
R9 N006 6 25
R10 6 N013 50
Q20 N003 N006 6 0 NP
V1 4 0 -15
V2 7 0 15
R11 6 2 10K
R12 2 N004 1K
V3 N007 0 SINE(0 1 1K) AC 1
R13 N002 N015 39K
R14 3 N007 10K
V4 N004 0 SINE({Voutoff})
.model NPN NPN
.model PNP PNP
.lib Z:\uio\hume\student-u18\rikeshc\LTSpice\lib\cmp\standard.bjt
* IN+
* IN-
* OUT
.tran 1u 10m
* This example schematic is supplied for informational/educational purposes only.
* V-
* V+
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250)
;STEP param Cload 10p 50p 10p
.STEP param Voutoff 0 -.4 -0.05
.backanno
.end
